US04198424
1-(3-methylphenyl)-2-(1-methyl-2-pyrrolidinyl)ethanone
5.8 g of lithium aluminum hydride are added portionwise at 0° to 66 g of 1-(3-methylphenyl)-2-(1-methyl-2-pyrrolidinyliden)ethanone dissolved in 550 ml of tetrahydrofuran. 20 minutes after completion of the addition, water is added dropwise until no evolution of gas is any longer observed. The light-yellow organic phase is decanted from the formed precipitate, the latter is extracted with diethyl ether, the united organic phases are dried over sodium sulfate and concentration to an oil is effected. After distillation under vacuum, 61.7 g (92% of theory) of the title compound (b.p. 116° at 0.01 mm Hg) are obtained. Picrate (from ethanol): m.p. 146° to 149°.

reactant | lithium aluminum hydride | 5.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(3-methylphenyl)-2-(1-methyl-2-pyrrolidinyliden)ethanone | CC=1C=C(C=CC1)C(C=C1N(CCC1)C)=O | C14H17NO
reactant | water | O | H2O
reactant | Picrate | C1([N+](=O)[O-])=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1[O-]
solvent | tetrahydrofuran | 550 ml | O1CCCC1 | C4H8O
product | 1-(3-methylphenyl)-2-(1-methyl-2-pyrrolidinyl)ethanone | CC=1C=C(C=CC1)C(CC1N(CCC1)C)=O | C14H19NO
